* ADG1219 SPICE Macro-model
* Generic Desc: Low Capacitance, Low Charge Injection, iCMOS SPDT Switch
* Developed by: MPorley / ADGT
* Revision History: 1.0 (1/2018)
* Copyright 2018 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* Begin Notes:
* The model will work on Vdd/Vss from 5V to 16.5V single supply and +/-5V to +/-16.5V dual supply.
* The model provides parametric specifications at +/-16.5V only and is not variable with Vdd and Vss changes. Please see datasheet page 3.
* The model is operational at EN level from 3.3V and 15V only.
*
* Not Modeled:
*
* Parameters modeled include:
*	On Resistance
*	Ton and Toff
*	Break-Before-Make
*	Off Isolation
*	Crosstalk
*	Supply Currents: Iss/Idd
*	Bandwidth
*	Charge Injection
* Connections
*      1  = EN
*      2  = VDD
*      3  = GND
*      4  = VSS
*      5  = S2
*      6  = D1
*      7  = S1
*      8  = IN1
*
.SUBCKT ADG1219 1 2 3 4 5 6 7 8

.MODEL VON VSWITCH(Von=5 Voff=0.8 Ron=0.001 Roff=10000000000)
.MODEL VEN VSWITCH(Von=5 Voff=0.8 Ron=155000 Roff=198500)
.MODEL VNE VSWITCH(Von=5 Voff=0.8 Ron=160000 Roff=188500)
.MODEL VRESET VSWITCH(Von=5 Voff=0.8 Ron=2700000 Roff=1000)
.MODEL DCLAMP D(IS=1E-15 IBV=1E-13)

* EN
S30 1 187 1 3 VRESET
C80 187 3 1E-12

* CROSSTALK
C12X 7 5 0.2E-012

* IDD/ISS
I1 2 3 0.001E-006
I2 4 3 0.001E-006

* Configuration: SPST 2:2


** SWITCH 1 **
*
* ESD PROTECTION DIODES
D11 4 6 DCLAMP
D12 6 2 DCLAMP
D13 4 7 DCLAMP
D14 7 2 DCLAMP
*
* OFF ISOLATION
C11 7 6 0.5E-012
*
* CHARGE INJECTION
C12 6 140 0.1E-012
C13 7 140 0.1E-012
*
* CD/CS OFF AND BANDWIDTH
C14 7 3 1E-012
C15 6 3 2e-012
*
* ON RESISTANCE
Ech155 1555 3 VALUE = { IF ((ABS(V(7)))>(ABS(V(184))),V(7),V(6)) }
R155 1555 3 1G
R11 137 6 0.001
S111 136 141 1141 3 VON
Ech111 1141 3 VALUE = { IF (V(1555)<-9,5,0) }
Ech11 141 3 VALUE = { IF (V(1555)<-9,2.66666666666667*(V(1555)--9)+160,0) }
S112 136 146 1146 3 VON
Ech112 1146 3 VALUE = { IF ((V(1555)>=-9) & (V(1555)<=6),5,0) }
Ech12 146 3 VALUE = { IF ((V(1555)>=-9) & (V(1555)<=6),((160-100)/((-9--1.5)*(-9--1.5)))*(V(1555)--1.5)*(V(1555)--1.5) + 100,0) }
S113 136 144 1144 3 VON
Ech113 1144 3 VALUE = { IF (V(1555)>6,5,0) }
Ech13 144 3 VALUE = { IF (V(1555)>6,-5.71428571428571*(V(1555)-6)+160,0) }
RIN1	136 3	1G
EOUT1 137 181	POLY(2) (136,3) (180,3) 0 0 0 0 0.999/1000
FCOPY1	3 180 VSENSE1 1
RSENSOR1 180 3	1K
VSENSE1 181 184	0
*
* TON/ TOFF/ BBM
S11 182 184 140 3 VON
S12 143 138 143 3 VEN
Ech14 143 3 VALUE = { IF(V(8)>=2.0, 5 , 0.8 ) }
eV1 140 3 138 3 1
C16 138 3 1e-012
*
* VOLTAGE SUPPLY REQUIREMENT
S13 7 182 185 3 VON
S14 142 185 142 3 VON
Ech15 142 3 VALUE = { IF((V(4)<=-0.5 & V(4)>=-16.5) & (V(2)<=16.5 & V(2)>=5), 5 , 0.01 ) }
S15 139 185 139 3 VON
Ech16 139 3 VALUE = { IF((V(4)>=-0.5 & (V(2)<=16.5 & V(2)>=5)), 5 , 0.01 ) }


** SWITCH 2 **
*
* ESD PROTECTION DIODES
D21 4 10 DCLAMP
D22 10 2 DCLAMP
D23 4 5 DCLAMP
D24 5 2 DCLAMP
*
* OFF ISOLATION
C21 5 6 0.5E-012
*
* CHARGE INJECTION
C23 5 240 0.1E-012
*
* CD/CS OFF AND BANDWIDTH
C24 5 3 1E-012
*
* ON RESISTANCE
Ech255 2555 3 VALUE = { IF ((ABS(V(5)))>(ABS(V(284))),V(5),V(10)) }
R255 2555 3 1G
R21 237 6 0.001
S221 236 241 2241 3 VON
Ech221 2241 3 VALUE = { IF (V(2555)<-9,5,0) }
Ech21 241 3 VALUE = { IF (V(2555)<-9,2.66666666666667*(V(2555)--9)+160,0) }
S222 236 246 2246 3 VON
Ech222 2246 3 VALUE = { IF ((V(2555)>=-9) & (V(2555)<=6),5,0) }
Ech22 246 3 VALUE = { IF ((V(2555)>=-9) & (V(2555)<=6),((160-100)/((-9--1.5)*(-9--1.5)))*(V(2555)--1.5)*(V(2555)--1.5) + 100,0) }
S223 236 244 2244 3 VON
Ech223 2244 3 VALUE = { IF (V(2555)>6,5,0) }
Ech23 244 3 VALUE = { IF (V(2555)>6,-5.71428571428571*(V(2555)-6)+160,0) }
RIN2	236 3	1G
EOUT2 237 281	POLY(2) (236,3) (280,3) 0 0 0 0 0.999/1000
FCOPY2	3 280 VSENSE2 1
RSENSOR2 280 3	1K
VSENSE2 281 284	0
*
* TON/ TOFF/ BBM
S21 282 284 240 3 VON
S22 243 238 243 3 VNE
Ech24 243 3 VALUE = { IF(V(8)<2.0, 5 , 0.8 ) }
eV2 240 3 238 3 1
C26 238 3 1e-012
*
* VOLTAGE SUPPLY REQUIREMENT
S23 5 282 285 3 VON
S24 242 285 242 3 VON
Ech25 242 3 VALUE = { IF((V(4)<=-0.5 & V(4)>=-16.5) & (V(2)<=16.5 & V(2)>=5), 5 , 0.01 ) }
S25 239 285 239 3 VON
Ech26 239 3 VALUE = { IF((V(4)>=-0.5 & (V(2)<=16.5 & V(2)>=5)), 5 , 0.01 ) }

.ENDS ADG1219
