* ADG1222 SPICE Macro-model
* Generic Desc: Low Capacitance, Low Charge Injection, ±15 V/+12 V iCMOS® Dual SPST Switches
* Developed by: MPorley / ADGT
* Revision History: 1.0 (07/2018)
* Copyright 2018 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* Begin Notes:
* The model will work on Vdd/Vss from 5V to 16.5V single supply and +/-5V to +/-16.5V dual supply.
* The model provides parametric specifications at +/-16.5V only and is not variable with Vdd and Vss changes. Please see datasheet page 3.
*
* Not Modeled:
*
* Parameters modeled include:
*	On Resistance
*	Ton and Toff
*	Break-Before-Make
*	Off Isolation
*	Crosstalk
*	Supply Currents: Iss/Idd
*	Bandwidth
*	Charge Injection
* Connections
*      1  = IN1
*      2  = S1
*      3  = D1
*      4  = D2
*      5  = S2
*      6  = VSS
*      7  = NIC
*      8  = GND
*      9  = VDD
*      10  = IN2
*
.SUBCKT ADG1222 1 2 3 4 5 6 8 9 10

.MODEL VON VSWITCH(Von=5 Voff=0.8 Ron=0.001 Roff=1000000000)
.MODEL VEN VSWITCH(Von=5 Voff=0.8 Ron=150000 Roff=150000)
.MODEL DCLAMP D(IS=1E-15 IBV=1E-13)


* CROSSTALK
C12X 2 5 0.06E-012

* IDD/ISS
I1 9 8 0.001E-006
I2 6 8 0.001E-006

* Configuration: SPST 2:2


** SWITCH 1 **
*
* ESD PROTECTION DIODES
D11 6 3 DCLAMP
D12 3 9 DCLAMP
D13 6 2 DCLAMP
D14 2 9 DCLAMP
*
* OFF ISOLATION
C11 2 3 0.55E-012
*
* CHARGE INJECTION
C12 3 140 0.05E-012
C13 2 140 0.05E-012
*
* CD/CS OFF AND BANDWIDTH
C14 2 8 1E-012
C15 3 8 1e-012
*
* ON RESISTANCE
Ech155 1555 8 VALUE = { IF ((ABS(V(2)))>(ABS(V(184))),V(2),V(3)) }
R155 1555 8 1G
R11 137 3 0.001
S111 136 141 1141 8 VON
Ech111 1141 8 VALUE = { IF (V(1555)<-9,5,0) }
Ech11 141 8 VALUE = { IF (V(1555)<-9,2.93333333333333*(V(1555)--9)+152,0) }
S112 136 146 1146 8 VON
Ech112 1146 8 VALUE = { IF ((V(1555)>=-9) & (V(1555)<=6),5,0) }
Ech12 146 8 VALUE = { IF ((V(1555)>=-9) & (V(1555)<=6),((152-112)/((-9--1.88018792940448)*(-9--1.88018792940448)))*(V(1555)--1.88018792940448)*(V(1555)--1.88018792940448) + 112,0) }
S113 136 144 1144 8 VON
Ech113 1144 8 VALUE = { IF (V(1555)>6,5,0) }
Ech13 144 8 VALUE = { IF (V(1555)>6,-4*(V(1555)-6)+161,0) }
RIN1	136 8	1G
EOUT1 137 181	POLY(2) (136,8) (180,8) 0 0 0 0 0.999/1000
FCOPY1	8 180 VSENSE1 1
RSENSOR1 180 8	1K
VSENSE1 181 184	0
*
* TON/ TOFF/ BBM
S11 182 184 140 8 VON
S12 143 138 143 8 VEN
Ech14 143 8 VALUE = { IF(V(1)<2.0, 5 , 0.8 ) }
eV1 140 8 138 8 1
C16 138 8 1e-012
*
* VOLTAGE SUPPLY REQUIREMENT
S13 2 182 185 8 VON
S14 142 185 142 8 VON
Ech15 142 8 VALUE = { IF((V(6)<=-0.5 & V(6)>=-16.5) & (V(9)<=16.5 & V(9)>=5), 5 , 0.01 ) }
S15 139 185 139 8 VON
Ech16 139 8 VALUE = { IF((V(6)>=-0.5 & (V(9)<=16.5 & V(9)>=5)), 5 , 0.01 ) }


** SWITCH 2 **
*
* ESD PROTECTION DIODES
D21 6 4 DCLAMP
D22 4 9 DCLAMP
D23 6 5 DCLAMP
D24 5 9 DCLAMP
*
* OFF ISOLATION
C21 5 4 0.55E-012
*
* CHARGE INJECTION
C22 4 240 0.05E-012
C23 5 240 0.05E-012
*
* CD/CS OFF AND BANDWIDTH
C24 5 8 1E-012
C25 4 8 1e-012
*
* ON RESISTANCE
Ech255 2555 8 VALUE = { IF ((ABS(V(5)))>(ABS(V(284))),V(5),V(4)) }
R255 2555 8 1G
R21 237 4 0.001
S221 236 241 2241 8 VON
Ech221 2241 8 VALUE = { IF (V(2555)<-9,5,0) }
Ech21 241 8 VALUE = { IF (V(2555)<-9,2.93333333333333*(V(2555)--9)+152,0) }
S222 236 246 2246 8 VON
Ech222 2246 8 VALUE = { IF ((V(2555)>=-9) & (V(2555)<=6),5,0) }
Ech22 246 8 VALUE = { IF ((V(2555)>=-9) & (V(2555)<=6),((152-112)/((-9--1.88018792940448)*(-9--1.88018792940448)))*(V(2555)--1.88018792940448)*(V(2555)--1.88018792940448) + 112,0) }
S223 236 244 2244 8 VON
Ech223 2244 8 VALUE = { IF (V(2555)>6,5,0) }
Ech23 244 8 VALUE = { IF (V(2555)>6,-4*(V(2555)-6)+161,0) }
RIN2	236 8	1G
EOUT2 237 281	POLY(2) (236,8) (280,8) 0 0 0 0 0.999/1000
FCOPY2	8 280 VSENSE2 1
RSENSOR2 280 8	1K
VSENSE2 281 284	0
*
* TON/ TOFF/ BBM
S21 282 284 240 8 VON
S22 243 238 243 8 VEN
Ech24 243 8 VALUE = { IF(V(10)<2.0, 5 , 0.8 ) }
eV2 240 8 238 8 1
C26 238 8 1e-012
*
* VOLTAGE SUPPLY REQUIREMENT
S23 5 282 285 8 VON
S24 242 285 242 8 VON
Ech25 242 8 VALUE = { IF((V(6)<=-0.5 & V(6)>=-16.5) & (V(9)<=16.5 & V(9)>=5), 5 , 0.01 ) }
S25 239 285 239 8 VON
Ech26 239 8 VALUE = { IF((V(6)>=-0.5 & (V(9)<=16.5 & V(9)>=5)), 5 , 0.01 ) }

.ENDS ADG1222
